US06548495B2
(RS)-[4-Cyano-5-morpholin-4-yl-2-(3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-y]-phenyl}-propionylamino)-phenyl]-carbamic Acid tert-Butyl Ester
The title compound was prepared from (2-amino-4-cyano-5-morpholin-4-yl-phenyl)-carbamic acid tert-butyl ester (Example J12) (318 mg, 1.0 mmol) and (RS)-3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionic acid tert-butyl ester (Example K5) (402 mg, 1.0 mmol) according to the general procedure M. Obtained as a light brown foam (370 mg, 57%).

reactant | (2-amino-4-cyano-5-morpholin-4-yl-phenyl)-carbamic acid tert-butyl ester | 1.0 mmol, 318 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCOCC1)C#N)N)=O | C16H22N4O3
reactant | (RS)-3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionic acid tert-butyl ester | 1.0 mmol, 402 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)N1N=NC=C1COC1OCCCC1)=O)=O | C21H27N3O5
product | (RS)-[4-Cyano-5-morpholin-4-yl-2-(3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-y]-phenyl}-propionylamino)-phenyl]-carbamic Acid tert-Butyl Ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCOCC1)C#N)NC(CC(C1=CC(=CC=C1)N1N=NC=C1COC1OCCCC1)=O)=O)=O | C33H39N7O7
